US09301526B2
Step 1: Preparation of ethyl (3,5-dichloropyridin-2-yl)(difluoro)acetate (Int-7)
To a solution of 56 g (0.246 mol) of 2-bromo-3,5-dichloropyridine in 500 mL of dry dimethylsulfoxide, were added 53 g (0.261 mol) of ethyl bromodifluoroacetate followed by 94 g (0.518 mol) of copper bronze (200 mesh). The beige suspension was heated at 50° C. for 5 hours. After cooling of the reaction mixture, a solution of 44 g (0.328 mol) of potassium monophosphate in 280 mL of water was added and stirred for 1 hour. The black mixture was then filtered over a cake of Supercel™, and the cake was washed three times by 200 mL of ethyl acetate. The organic phases were collected, washed with brine and dried over magnesium sulfate. Evaporation of the solvent under vacuum gave 57.6 g of brown oil. After purification by column chromatography on silica gel (heptane/ethyl acetate 9/1) 40 g (57%) of ethyl (3,5-dichloropyridin-2-yl)(difluoro)acetate (Int-7) were obtained as a yellow oil, (M+1)=270, 19F-NMR (235 MHz, CDCl3) δ (ppm): −104.21 (CF2).

reactant | 2-bromo-3,5-dichloropyridine | 0.246 mol, 56 g | BrC1=NC=C(C=C1Cl)Cl | C5H2BrCl2N
reactant | ethyl bromodifluoroacetate | 0.261 mol, 53 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | potassium monophosphate | 0.328 mol, 44 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethylsulfoxide | 500 mL | CS(=O)C | C2H6OS
solvent | water | 280 mL | O | H2O
catalyst | copper bronze | 0.518 mol, 94 g | [Cu] | Cu
product | ethyl (3,5-dichloropyridin-2-yl)(difluoro)acetate | 57.6 g | ClC=1C(=NC=C(C1)Cl)C(C(=O)OCC)(F)F | C9H7Cl2F2NO2
